US09353086B2
1-(Propan-2-yl)azepan-4-one
N-Boc-hexahydro-1H-azepine-4-one (3.00 g, 14.1 mmol) was dissolved in DCM (50 mL), TFA (15 mL) was added and the reaction mixture was stirred for 2 h. The solvents were removed in vacuo and the residue partitioned between DCM (500 mL) and sat aq Na2CO3 (500 mL). The aq fraction was extracted with DCM (2×250 mL) and the combined organic fractions were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in DCM (50 mL) and acetone (10 mL) and NaBH(OAc)3 (2.18 g, 141 mmol) were added. The reaction mixture was stirred for 18 h, diluted with DCM (200 mL) and quenched with sat aq Na2CO3 (150 mL). The organic fraction was dried (MgSO4) and concentrated in vacuo to give the crude title compound (2.18 g) as a brown liquid. LCMS (ES+): 156.2 [MH]+.

reactant | N-Boc-hexahydro-1H-azepine-4-one | 14.1 mmol, 3.00 g | C(=O)(OC(C)(C)C)N1CCC(CCC1)=O | C11H19NO3
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetone | 10 mL | CC(=O)C | C3H6O
reactant | NaBH(OAc)3 | 141 mmol, 2.18 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(Propan-2-yl)azepan-4-one | 2.18 g | CC(C)N1CCC(CCC1)=O | C9H17NO
